US05123951
Mono-ethyl ethoxymalonate (1.44 grams, 0.01 mole), prepared in Example LXVIII Part A, 4-bromoaniline (1.41 grams, 0.01 mole) and 1,3-dicyclohexylcarbodiimide (1.68 grams, 0.01 mole) were reacted in a manner similar to that described in Example LVII to give 0.79 gram (0.002 mole) of ethyl 3-[(4-bromophenyl)amino]-2-ethoxy-3-oxopropanoate having a melting point of 59° C.-64° C. An analytical sample recrystallized from hexane-ethyl acetate had a melting point of 62° C.-64° C.

reactant | Mono-ethyl ethoxymalonate | 0.01 mole, 1.44 grams | C(C)OC(C(=O)OCC)C(=O)[O-]
reactant | 4-bromoaniline | 0.01 mole, 1.41 grams | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 1,3-dicyclohexylcarbodiimide | 0.01 mole, 1.68 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | ethyl 3-[(4-bromophenyl)amino]-2-ethoxy-3-oxopropanoate | 0.002 mole, 0.79 gram | BrC1=CC=C(C=C1)NC(C(C(=O)OCC)OCC)=O | C13H16BrNO4
